US07713994B2
To a suspension of 4-(4-methyl-1-piperazinyl)-benzenamine (43 mg, 0.23 mmol) and (3Z)-3-(1-hydroxyethylidene)-piperidine-2,6-dione (35 mg, 0.23 mmol) in absolute ethanol (1.5 mL) is added concentrated ethanolic hydrogen chloride (2 drops), which caused the precipitation of a white solid. The mixture is heated in a 65° C. oil bath for 20 minutes. Then N,N-dimethylformamide (0.4 mL) is added to the mixture and the temperature of the oil bath is increased to 70° C. An additional volume of N,N-dimethylformamide (0.6 mL) is added and the temperature of the oil bath is increased to 135° C., at which setting it stirred for 30 minutes. The mixture is stirred overnight at 130° C. After cooling to room temperature, the semi-solid reaction mixture is triturated with methanol. The solid that formed is collected by filtration and washed with diethyl ether, water, and methanol to give (3Z)-3-(1-{[4-(4-methylpiperazin-1-yl)phenyl]amino}ethylidene)piperidine-2,6-dione as a light beige solid.

reactant | 4-(4-methyl-1-piperazinyl)-benzenamine | 0.23 mmol, 43 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | (3Z)-3-(1-hydroxyethylidene)-piperidine-2,6-dione | 0.23 mmol, 35 mg | O\C(\C)=C\1/C(NC(CC1)=O)=O | C7H9NO3
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
catalyst | hydrogen chloride | 2 drops | Cl | ClH
product | (3Z)-3-(1-{[4-(4-methylpiperazin-1-yl)phenyl]amino}ethylidene)piperidine-2,6-dione | CN1CCN(CC1)C1=CC=C(C=C1)N\C(\C)=C\1/C(NC(CC1)=O)=O | C18H24N4O2
